*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/2.20e-03[uF]/25[V]
* Murata P/N :GRM15XR71E222MA86
* Property : C = 2.20e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM15XR71E222MA86 Port1 Port2
C01 Port1 N01 2.25e-09
R01 Port1 N01 1.00e+10
L02 N01 N02 2.05e-10
R03 N02 N03 1.56e-01
C04 N03 N04 2.89e-07
R04 N03 N04 1.13e+04
C05 N04 N05 4.37e-07
R05 N04 N05 1.42e+03
C06 N05 N06 3.55e-07
R06 N05 N06 2.01e+02
C07 N06 N07 3.24e-07
R07 N06 N07 2.20e+01
C08 N07 N08 3.35e-07
R08 N07 N08 2.90e+00
C09 N08 N09 2.21e-07
R09 N08 N09 8.04e-01
C10 N09 N10 8.48e-08
R10 N09 N10 2.75e-01
C11 N10 N11 3.90e-08
R11 N10 N11 6.02e-02
L12 N11 N12 5.39e-11
R12 N11 N12 5.57e-01
C13 N12 N13 1.39e-09
L13 N12 N13 2.07e-11
R13 N12 N13 7.81e-02
C14 N13 Port2 4.01e-12
L14 N13 Port2 6.68e-11
R14 N13 Port2 1.77e+01
.ENDS GRM15XR71E222MA86
