*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/R(-55to125[deg])/1.00e-03[uF]/50[V]
* Murata P/N :GRM15XR11H102KA86
* Property : C = 1.00e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM15XR11H102KA86 Port1 Port2
C01 Port1 N01 9.75e-10
R01 Port1 N01 1.00e+10
L02 N01 N02 2.54e-10
R03 N02 N03 2.74e-01
C04 N03 N04 8.35e-08
R04 N03 N04 2.01e+04
C05 N04 N05 1.76e-07
R05 N04 N05 6.80e+02
C06 N05 N06 1.57e-07
R06 N05 N06 8.77e+01
C07 N06 N07 1.65e-07
R07 N06 N07 1.01e+01
C08 N07 N08 1.59e-07
R08 N07 N08 2.89e+00
C09 N08 N09 7.04e-08
R09 N08 N09 9.54e-01
C10 N09 N10 2.67e-08
R10 N09 N10 3.52e-01
C11 N10 N11 9.64e-09
R11 N10 N11 1.51e-01
C12 N11 N12 2.42e-10
L12 N11 N12 2.63e-11
R12 N11 N12 2.65e-01
C13 N12 Port2 4.25e-12
L13 N12 Port2 6.94e-11
R13 N12 Port2 7.55e+00
.ENDS GRM15XR11H102KA86
