*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/1.50e-03[uF]/50[V]
* Murata P/N :GRM15XR71H152KA86
* Property : C = 1.50e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM15XR71H152KA86 Port1 Port2
C01 Port1 N01 1.64e-09
R01 Port1 N01 1.00e+10
L02 N01 N02 2.13e-10
R03 N02 N03 2.11e-01
C04 N03 N04 1.91e-07
R04 N03 N04 1.34e+04
C05 N04 N05 2.66e-07
R05 N04 N05 1.17e+03
C06 N05 N06 2.40e-07
R06 N05 N06 1.28e+02
C07 N06 N07 2.07e-07
R07 N06 N07 1.54e+01
C08 N07 N08 1.48e-07
R08 N07 N08 2.39e+00
C09 N08 N09 7.16e-08
R09 N08 N09 4.94e-01
C10 N09 N10 3.66e-08
R10 N09 N10 1.09e-01
L11 N10 N11 3.50e-11
R11 N10 N11 5.04e-01
C12 N11 N12 1.44e-09
L12 N11 N12 1.45e-11
R12 N11 N12 1.19e-01
C13 N12 Port2 6.78e-12
L13 N12 Port2 5.17e-11
R13 N12 Port2 7.07e+00
.ENDS GRM15XR71H152KA86
