*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/2.20e+00[uF]/10[V]
* Murata P/N :GRM155Z71A225KE01
* Property : C = 2.20e+00[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155Z71A225KE01 Port1 Port2
C01 Port1 N01 1.69e-06
R01 Port1 N01 2.27e+07
L02 N01 N02 1.51e-10
R03 N02 N03 5.41e-03
C04 N03 N04 1.19e-04
R04 N03 N04 2.65e+01
C05 N04 N05 1.40e-04
R05 N04 N05 3.27e+00
C06 N05 N06 8.22e-05
R06 N05 N06 7.06e-01
C07 N06 N07 8.63e-05
R07 N06 N07 9.38e-02
C08 N07 N08 5.26e-05
R08 N07 N08 2.25e-02
C09 N08 N09 1.20e-04
R09 N08 N09 3.01e-03
L10 N09 N10 2.56e-11
R10 N09 N10 9.32e-02
L11 N10 N11 1.42e-10
R11 N10 N11 3.09e-02
C12 N11 N12 9.45e-06
L12 N11 N12 2.30e-11
R12 N11 N12 4.56e-03
C13 N12 N13 2.24e-06
L13 N12 N13 4.75e-11
R13 N12 N13 9.06e-03
C14 N13 Port2 1.36e-11
L14 N13 Port2 2.10e-11
R14 N13 Port2 2.73e+00
.ENDS GRM155Z71A225KE01
