*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/2.20e+00[uF]/10[V]
* Murata P/N :GRM155Z71A225KE44
* Property : C = 2.20e+00[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155Z71A225KE44 Port1 Port2
C01 Port1 N01 1.74e-06
R01 Port1 N01 2.27e+07
L02 N01 N02 1.38e-10
R03 N02 N03 4.99e-03
C04 N03 N04 7.90e-05
R04 N03 N04 1.40e+01
C05 N04 N05 9.43e-05
R05 N04 N05 1.67e+00
C06 N05 N06 8.49e-05
R06 N05 N06 2.99e-01
C07 N06 N07 7.17e-05
R07 N06 N07 5.62e-02
C08 N07 N08 5.39e-05
R08 N07 N08 1.26e-02
C09 N08 N09 7.94e-05
R09 N08 N09 1.64e-03
L10 N09 N10 2.53e-11
R10 N09 N10 1.27e-01
L11 N10 N11 2.22e-10
R11 N10 N11 2.28e-02
L12 N11 N12 2.21e-11
R12 N11 N12 2.13e-02
C13 N12 N13 9.95e-06
L13 N12 N13 2.16e-11
R13 N12 N13 3.84e-03
C14 N13 N14 5.36e-06
L14 N13 N14 2.08e-11
R14 N13 N14 4.62e-03
C15 N14 Port2 5.42e-12
L15 N14 Port2 4.56e-11
R15 N14 Port2 2.82e+01
.ENDS GRM155Z71A225KE44
